* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\Draft1.asc
V1 a 0 2
I1 d e 3
R1 a b 6
R2 a d 5
R3 c 0 8
R4 e 0 9
R5 a 0 7
L1 c b 10
.op
.backanno
.end
